US06852736B2
A solution of 0.475 g of 4-tert-butoxycarbonylamino-1-(5-piperid-1-ylcarbonyl-2-pyridyl)piperidine (1.24 mmol) and 5 ml of trifluoroacetic acid in 20 ml of dichloromethane is stirred for 1 hour. The reaction medium is concentrated under reduced pressure and then taken up in dichloromethane. The solution is basified (pH=9) using saturated aqueous sodium carbonate solution. The aqueous phase is extracted five times with dichloromethane. The organic phases are dried over magnesium sulfate and concentrated under reduced ressure. The 4-amino-1-(5-piperid-1-ylcarbonyl-2-pyridyl)piperidine is obtained in the form of an oil (0.310 g, 88%). [M+H+]=289.4

reactant | 4-tert-butoxycarbonylamino-1-(5-piperid-1-ylcarbonyl-2-pyridyl)piperidine | 1.24 mmol, 0.475 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1=NC=C(C=C1)C(=O)N1CCCCC1 | C21H32N4O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-amino-1-(5-piperid-1-ylcarbonyl-2-pyridyl)piperidine | NC1CCN(CC1)C1=NC=C(C=C1)C(=O)N1CCCCC1 | C16H24N4O
